US08283378B2
Similarly to Example 1(b), by reaction of 1 g (3.5 mmol) of 2-benzenesulfonyl-indane-2-carbonitrile with 161 mg (4.2 mmol) of lithium aluminum hydride. 168 mg of C-(2-benzenesulfonyl-indan-2-yl)-methylamine is obtained in the form of a brown oil. (Yield=17%).

reactant | 2-benzenesulfonyl-indane-2-carbonitrile | 3.5 mmol, 1 g | C1(=CC=CC=C1)S(=O)(=O)C1(CC2=CC=CC=C2C1)C#N | C16H13NO2S
reactant | lithium aluminum hydride | 4.2 mmol, 161 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | C-(2-benzenesulfonyl-indan-2-yl)-methylamine | 168 mg, Yield=17% | C1(=CC=CC=C1)S(=O)(=O)C1(CC2=CC=CC=C2C1)CN | C16H17NO2S
